US06559167B1
Preparation of N-(carbamoylmethyl)-2-(4-{[2-({[3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl}sulfinyl)benzimidazol-1-yl]sulfonyl}phenoxy)acetamide
2-[[[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole (185 mg) was dissolved in 20 ml of dichloromethane and 0.5 ml of triethylamine, and N-(carbamoylmethyl)-2-[4-(chlorosulfonyl)phenoxy]acetamide (158 mg) was added. The reaction mixture was stirred at room temperature for 24 hr. Dichloromethane (100 ml) was added to the reaction mixture. The reaction mixture was washed with saturated NaCl solution, and 0.1N sodium bicarbonate solution. Dichloromethane layer was separated and dried over anhydrous magnesium sulfate. Dichloromethane was evaporated under reduced pressure to give syrupy material, which was lyophilized in vacuo. 237 mg of the titled product was obtained.

reactant | 2-[[[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole | 185 mg | CC=1C(=NC=CC1OCC(F)(F)F)CS(=O)C1=NC2=C(N1)C=CC=C2 | C16H14F3N3O2S
reactant | N-(carbamoylmethyl)-2-[4-(chlorosulfonyl)phenoxy]acetamide | 158 mg | C(N)(=O)CNC(COC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClN2O5S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | Dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(carbamoylmethyl)-2-(4-{[2-({[3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl}sulfinyl)benzimidazol-1-yl]sulfonyl}phenoxy)acetamide | 237 mg | C(N)(=O)CNC(COC1=CC=C(C=C1)S(=O)(=O)N1C(=NC2=C1C=CC=C2)S(=O)CC2=NC=CC(=C2C)OCC(F)(F)F)=O | C26H24F3N5O7S2
